US04814343
alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-triphenylmethyl-1H-imidazole-4-methanol
2 ml of dibromoethane are added to a suspension of 26.73 g (1 mole+10% excess) of magnesium in 250 ml of anhydrous tetrahydrofuran and warmed to about 30° C. to initiate the reaction. Immediately thereafter, 277.5 g (1 mole) of 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin dissolved in 250 ml of tetrahydrofuran are added dropwise thereto in such a manner that the temperature does not exceed 40° C. The addition takes about 150 minutes. The organomagnesium compound is cooled to about 10° C. (partial precipitation) and it is then added to a solution of 338 g (1 mole) of 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde in 2.8 liters of tetrahydrofuran which has previously been cooled to 0° C. During the addition, the temperature of the mixture increases progressively to 20° C. Stirring is continued for 1 hour at this temperature and then 53.5 g (1 mole) of ammonium chloride are added. After stirring for 1 hour, 18 ml of water are added and stirring is maintained for a further hour. The tetrahydrofuran is removed under reduced pressure. The residue is taken up in 5 liters of dichloromethane and washed with 2 liters of water containing 30 g of sodium bisulfite. The aqueous phase is separated and washed with 1 liter of dichloromethane. The organic phases are again washed with water, then dried over anhydrous sodium sulfate and the solvent removed under reduced pressure. The residue is recrystallized from about 4 liters of toluene at 80° C. and filtered hot on Norit. 335.6 g of alpha-(6-chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-triphenylmethyl-1H-imidazole-4-methanol, which contans one molecule of toluene, are thus obtained. M.P.: 120° C. followed by 188° C.

reactant | dibromoethane | 2 ml | BrC(C)Br | C2H4Br2
reactant | magnesium | 1 mole, 26.73 g | [Mg] | Mg
reactant | 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin | 1 mole, 277.5 g | BrC1=CC(=CC2=C1OC(OC2)(C)C)Cl | C10H10BrClO2
reactant | 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde | 1 mole, 338 g | C1(=CC=CC=C1)C(N1C=NC(=C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | ammonium chloride | 1 mole, 53.5 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.8 liters | O1CCCC1 | C4H8O
solvent | water | 18 ml | O | H2O
product | alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-triphenylmethyl-1H-imidazole-4-methanol | ClC1=CC2=C(OC(OC2)(C)C)C(=C1)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H29ClN2O3
